US05872118
Trifluoroacetic acid (39.9 g, 0.35 mol) was added dropwise to a stirred, chilled (ice-methanol bath) mixture of 2-(4,6-difluoro-1-hydroxy-1-indanyl)acetic acid (11.3 g, 0.05 mol) in dichloromethane (250 mL). After 35 min. the mixture was concentrated in vacuo. Dichloromethane was added to the residue and the mixture was concentrated in vacuo. This procedure was repeated once more to give 6.4 g of crude (E)-2-(4,6- difluoro-1-indanylidene) acetic acid. Recrystallization of 0.9 g from acetone: water mixtures gave 0.15 g of (E)-2-(4,6-difluoro-1-indanylidene) acetic acid as a white solid: mp 238°-239° C.; NMR (DMSO-d6): d12.25 (br, 1H), 7.23-7.65 (m, 2H), 6.46 (t, 1H), 3.20-3.28, 2.97-3.20(2 m's, 4H); steady-state nOe: irradiation at 6.46 d, observed 21.6% nOe at 7.63 d.

reactant | Trifluoroacetic acid | 0.35 mol, 39.9 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(4,6-difluoro-1-hydroxy-1-indanyl)acetic acid | 0.05 mol, 11.3 g | FC1=C2CCC(C2=CC(=C1)F)(O)CC(=O)O | C11H10F2O3
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | (E)-2-(4,6- difluoro-1-indanylidene) acetic acid | 6.4 g | FC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)O | C11H8F2O2
